US07365090B2
Synthesis of 5-(1-Hydroxyethyl)-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide
Sodium borohydride (0.03 g, 0.0008 mol) was added to a mixture of 5-acetyl-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide (0.30 g, 0.0008 mol) in tetrahydrofuran (8.5 mL) containing 0.1 mL of water, then reaction was refluxed for 1 hour. After cooling, water was added while stirring for a few minutes, then the mixture was extracted with ethyl acetate, washed with brine and dried. Removal of the solvent furnished 0.25 g (83%) of satisfactory pure title compound, mp 260-260° C. (ethanol).

reactant | Sodium borohydride | 0.0008 mol, 0.03 g | [BH4-].[Na+]
reactant | 5-acetyl-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | 0.0008 mol, 0.30 g | C(C)(=O)C=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C20H20N2O4S
reactant | water | 0.1 mL | O | H2O
solvent | tetrahydrofuran | 8.5 mL | O1CCCC1 | C4H8O
product | 5-(1-Hydroxyethyl)-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | 0.25 g, 83% | OC(C)C=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C20H22N2O4S
